2161-02-19 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2161-02-20 06:53:00 Physician Resident Progress Note
Chief Complaint: - NG tube placed by stellar medical student.
   - Written for IVIG four days.
   - Pt had chest pain. Two sets negative. Third at 8pm.
   - Failed speech and swallow - made NPO.
   - Neuro will have a bed for him when respiratory mechanics improve
   (likely tomorrow).
   24 Hour Events:
 EKG - At [**2161-2-19**] 12:09 PM
   Allergies:
   Alcohol
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-2-19**] 08:00 PM
   Enoxaparin (Lovenox) - [**2161-2-19**] 08:00 PM
   Morphine Sulfate - [**2161-2-20**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-2-20**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.7
C (96.2
   HR: 83 (56 - 92) bpm
   BP: 149/89(103) {143/87(103) - 176/105(117)} mmHg
   RR: 24 (16 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,343 mL
                                                                    217 mL
   PO:
             TF:
   IVF:
                                                                  2,343 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    600 mL
   Urine:
                                                                  1,600 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    743 mL
                                                                   -383 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///21/
   NIF: -40 cmH2O
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   227 K/uL
   12.1 g/dL
   108 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.3 mEq/L
   16 mg/dL
   98 mEq/L
   129 mEq/L
   35.4 %
   10.3 K/uL
        [image002.jpg]
                             [**2161-2-19**]  05:09 AM
                             [**2161-2-19**]  06:50 AM
                             [**2161-2-19**]  12:54 PM
                             [**2161-2-19**]  09:21 PM
                             [**2161-2-20**]  04:26 AM
   WBC
   9.9
   10.3
   Hct
   35.5
   35.4
   Plt
   197
   227
   Cr
   0.9
   0.7
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   25
   Glucose
   108
   106
   108
   Other labs: PT / PTT / INR:12.7/38.8/1.1, CK / CKMB /
   Troponin-T:57/2/<0.01, ALT / AST:91/73, Alk Phos / T Bili:109/0.4,
   Lactic Acid:1.8 mmol/L, Albumin:3.6 g/dL, LDH:420 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   56M with rectal carcinoma s/p resection, chemoradiation who was
   referred to ED for R common iliac DVT and was found to be febrile. Now
   with improving fever on ABx but worsening ascending weakness and LP w/
   albuminocytologic dissociation concerning for GBS.
   .
   GBS: Patient w/ worsened ascending weakness/numbness and speech/swallow
   concerning for dysphagia.  LP w/ albuninocytologic dissociation.
The patient is a 56 year old man with a history of rectal
adenocarcinoma s/p resection and chemoradiation c/b right
cerebellar metastasis s/p resection who was admitted with right
common iliac vein thrombosis and fever who has subsequently
developed bilateral leg weakness, worsened bilateral ascending
lower leg numbness, dysphagia to liquids and solids, and SOB
with albuminocytologic dissociation on LP consistent with [**Last Name (un) 3245**]
[**Location (un) **] Syndrome. He is currently getting his second dose of IVIg.
His exam is slightly worse today, with weaker IPs and deltoids
today when compared with yesterday. He had a trace triceps reflex
today. He remains in the ICU today given his VC decreased from
1500 to 1000 yesterday to today. He has evidence of oropharyngeal
involvement given he failed his video swallow today.
-Continue IVIg x4 days
-Obtain NIF/VC q4 hours overnight
-Continue telemetry to evaluate for arrythmia
-f/u LP for cytology and the other pending studies
-Consider repeat EMG/NCS when improved to further evaluate for
axonal involvement
-Repeat S&S eval when he starts to clinically improve, continue
TFs for now
-Can call out to neurology when respiratory function tests
improve (likely will need step-down unit)
   - Obtain EKG (wnl), CXR (mild pulm edema on my read), CE pending.
   - Check ESR, CRP if negative would make vasculitis highly unlikely
   - Continue Telemetry monitoring as autonomic neuropathy and arrhythmias
   can occur with GBS.
   - Continue NIF and VC Q12H given stability
   - Goal NIF >20 and VC >1 L
   - EMG today
   - Continue emperic IVIG 500mg/kg x 4 days with premedication (tylenol,
   benadryl), first dose now
   - f/u CSF cytology, CEA, beta 2 microglobulin, LDH, other studies
   - consider checking anti-[**Doctor Last Name **], anti-yo, anti-ri
   - Chest PT to prevent atelectasis and respiratory failure
   - Low threshold to intubate especially if pt cannot protect airway,
   develops hypercarbia or hypoxia
   - Neuro and neuro onc recs, appreciate their input greatly
   .
   # Diarrhea: Likely viral given negative c diff x 2 and negative stool
   studies and cultures.
   - f/u campylobacter, stool studies
   .
   # Fever: Resolved. ? [**2-10**] diarrheal illness vs PNA/aspiration. Given
   recent chemotherapy, always concerning for infection. However, patient
   is not neutropenic. Bandemia reflects recent Neulasta administration.
   No evidence of sepsis. CXR, u/a unremarkable. Fever might also be
   related to DVT or chemo itself.
   -DC abx as no evidence of infiltrate on CXR
   -CIS
   -Repeat stool studies
   .
   # Aspiration PNA: Now on levoflox/flagyl. Had been on vanco/zosyn
   changed to levoflox/flagyl.
   -DC abx per above
   .
   # DVT: DVT found on routine screening, sent to ED then developed fever.
   Restarted on lovenox after LP.
   -Continue Lovenox
   .
   # Rectal cancer:
   - plan per outpatient team
   .
   # elevated blood glucose: Hemoglobin A1C of 6.5 suggests glucose
   intolerance
   - insulin s/s
   .
   FEN: No IVF, replete electrolytes, npo
   .
   Prophylaxis: Enoxaparin, pantoprazole
   .
   Access: single lumen port and PIV
   .
   Code: Confirmed FULL
   .
   Communication: Patient
   .
   Disposition: pending clinical improvement
   .
   [**First Name11 (Name Pattern1) 82**] [**Last Name (NamePattern4) 11267**], MD
   PGY-1, [**Pager number 11268**]
   .................
   ICU Care
   Nutrition: NPO for now, speech and swallow eval pending
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2161-2-18**] 07:04 PM
   Prophylaxis:
   DVT: Enoxaparin
   Stress ulcer: PPI
   VAP:  EHOB
   Comments:
   Communication:  Comments:
   Code status: Confirmed FULL
   Disposition: ICU pending respiratory status likely called out to the
   floor later today
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 56M met rectal cancer s/p resection /
   colostomy, CNS mets resected '[**60**], DVT and progressive weakness
   concerning for GBS, imaging without clear compression, LP with elevated
   protein. Sent to MICU with NIF -20 and falling FVC. This AM, NIF -40 /
   FVC 1.5L. Reports back / shoulder pain o/n, on IVIG for possible GBS.
   Exam notable for Tm 99.3 BP 150/60 HR 60 RR 14 with sat 100 on 3LNC.
   PERRL, EOMI. 4/5 strength. No reflexes. CTA B. RRR s1s2. Soft +BS. No
   edema. Labs notable for WBC 9K, HCT 35, K+ 3.4, Cr 0.9. CXR with clear
   lungs.
   Agree with plan to manage weakness with EMG, neuro eval (ongoing), f/u
   CSF cytology and other studies, CRP / ESR, review of MRI re vascular
   compromise. Appears to have improved with IVIG, but pain is out of
   proportion for GBS
 continue IVIG, initiate PT, talk with neuro-onc re
   paraneoplastic syndrome. Given respiratory compromise, will follow NIF
   / FVC q8h, ABG reassuring, monitor off oxygen to avoid masking
   hypoventilation. Lovenox for malignancy-associated DVT in the settin of
   met rectal cancer. Formal S+S eval prior to advancing diet
 may need
   NGT for meds and nutritional support. Remainder of plan as outlined
   above.
   Patient is critically ill
   Total time: 35 min
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2161-2-18**] 07:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2161-02-21 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2161-2-20**] 08:30 PM
   -NIF 20, VC 1.2
   -SIADH by urine lytes fluid restricted
   -d/c'd fentanyl patch neuro worried
   -got intubated for nif 20, vc 1; worsening fatigue/weakness
   Allergies:
   Alcohol
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2161-2-20**] 07:45 PM
   Propofol - [**2161-2-20**] 07:55 PM
   Pantoprazole (Protonix) - [**2161-2-20**] 08:30 PM
   Enoxaparin (Lovenox) - [**2161-2-20**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-2-21**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 36.1
C (97
   Tcurrent: 36
C (96.8
   HR: 121 (75 - 124) bpm
   BP: 133/79(92) {100/64(69) - 186/112(129)} mmHg
   RR: 21 (13 - 35) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  1,277 mL
                                                                    747 mL
   PO:
             TF:
                                                                     41 mL
                                                                    218 mL
   IVF:
                                                                  1,237 mL
                                                                    529 mL
   Blood products:
   Total out:
                                                                  2,495 mL
                                                                  1,980 mL
   Urine:
                                                                  2,495 mL
                                                                  1,980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,218 mL
                                                                 -1,233 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 468 (468 - 468) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 75
   PIP: 13 cmH2O
   SpO2: 97%
   ABG: 7.40/43/106/22/0
   NIF: -20 cmH2O
   Ve: 5.9 L/min
   PaO2 / FiO2: 265
   Physical Examination
   Tachycardic, no murmurs, lungs clear, abdomen soft/NT
   Labs / Radiology
   281 K/uL
   13.0 g/dL
   114 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.9 mEq/L
   14 mg/dL
   99 mEq/L
   132 mEq/L
   38.2 %
   20.8 K/uL
        [image002.jpg]
                             [**2161-2-19**]  05:09 AM
                             [**2161-2-19**]  06:50 AM
                             [**2161-2-19**]  12:54 PM
                             [**2161-2-19**]  09:21 PM
                             [**2161-2-20**]  04:26 AM
                             [**2161-2-20**]  07:08 PM
                             [**2161-2-21**]  04:10 AM
                             [**2161-2-21**]  04:18 AM
   WBC
   9.9
   10.3
   20.8
   Hct
   35.5
   35.4
   38.2
   Plt
   197
   227
   281
   Cr
   0.9
   0.7
   0.9
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   25
   24
   28
   Glucose
   108
   106
   108
   114
   Other labs: PT / PTT / INR:12.7/38.8/1.1, CK / CKMB /
   Troponin-T:57/2/<0.01, ALT / AST:105/83, Alk Phos / T Bili:115/0.7,
   Lactic Acid:1.8 mmol/L, Albumin:3.6 g/dL, LDH:420 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   56M with rectal carcinoma s/p resection, chemoradiation who was
   referred to ED for R common iliac DVT and was found to be febrile. Now
   with improving fever on ABx but worsening ascending weakness and LP w/
   albuminocytologic dissociation concerning for GBS.
   .
   GBS: Patient w/ worsened ascending weakness, dysphagia, and worsened
   respiratory status now intubated for GBS respiratory failure (NIF 20,
   VC 1) .  CSF prelim neg for growth.
   -- Cont IVIg
   -- NPO
   -- Continue telemetry
   -- Intubated for respiratory decompensation, check NIFs daily
   -- Appreciate Neuro recs, transfer to neuro ICU when bed available
   given need to further monitor respiratory status
   -- F/u final CSF cx data, beta 2 pending
   Leukocytosis: W/ increased secretions and aspiration around time of
   intubation.  Too early for VAP, but would assess w/ CXR. Pan culture
   blood/sputum/urine.
   -- Pan cx
   -- CXR
   Ischemic ECG changes: Patient w/ upward sloping std in II/avf/v3/v4.
   Has not reported chest pain, more likely demand related.
   -- Cycle enzymes
   -- Aspirin, bb for now
   Hyponatremia: SIADH based on urine lytes [**2-10**] pain vs central process.
   Improving with free water restriction.
   -- Free water restrict <1.5L
   -- Pain control w/ morphine prn
   Hypertension: Likely pain related.
   -- Morphine prn/sedation on vent
   # Diarrhea: C diff negative. No further episodes while inpatient.
   - f/u campylobacter pending
   .
   # Fevers: No fevers while in the ICU.
   -- F/u CSF/blood cx/stool cx (prelim negative) and blood cx from
   admission negative
   - Pan cx for new leukocytosis
   # DVT:
   -Continue Lovenox
   .
   # Rectal cancer:  with known mets
   - plan per outpatient team
   .
   # elevated blood glucose:
   - insulin s/s
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2161-2-21**] 12:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2161-2-18**] 07:04 PM
   Prophylaxis:
   DVT: on lovenox for dvt
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: to Neuro ICU when bed available

2161-02-21 08:16:00 Physician Attending Progress Note
Chief Complaint: progressive weakness 2/2 GBS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Intubated yesterday PM for increasing weakness and resp distress
   Got 3^rd dose of IVIG
   No plasmapheresis per Neuro
   Tachycardic, ECG with inferolateral STDs, no chest pain
   Urine lytes checked, c/w SIADH
   History obtained from Family / [**Hospital 216**] Medical records
   Allergies:
   Alcohol
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2161-2-20**] 07:55 PM
   Pantoprazole (Protonix) - [**2161-2-20**] 08:30 PM
   Morphine Sulfate - [**2161-2-21**] 07:13 AM
   Enoxaparin (Lovenox) - [**2161-2-21**] 07:46 AM
   Other medications:
   IVIG 35 gm (D4)
   Lovenox
   Pantoprazole
   ISS
   Propofol gtt at 50
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain
   Flowsheet Data as of  [**2161-2-21**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 133 (75 - 133) bpm
   BP: 161/95(105) {100/64(69) - 186/112(129)} mmHg
   RR: 22 (13 - 35) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  1,277 mL
                                                                    914 mL
   PO:
             TF:
                                                                     41 mL
                                                                    270 mL
   IVF:
                                                                  1,237 mL
                                                                    584 mL
   Blood products:
   Total out:
                                                                  2,495 mL
                                                                  1,980 mL
   Urine:
                                                                  2,495 mL
                                                                  1,980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,218 mL
                                                                 -1,066 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 409 (409 - 468) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 75
   PIP: 13 cmH2O
   SpO2: 97%
   ABG: 7.40/43/106/22/0
   NIF: -20 cmH2O
   Ve: 6 L/min
   PaO2 / FiO2: 265
   Physical Examination
   Gen: intubated, sedated
   Chest: scattered rales throughout
   CV: tachy, regular, no murmurs
   Abd: soft, NT/ND
   Extr: warm, no edema
   Neuro: opens eyes to command, does not squeeze hands
   Labs / Radiology
   13.0 g/dL
   281 K/uL
   114 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.9 mEq/L
   14 mg/dL
   99 mEq/L
   132 mEq/L
   38.2 %
   20.8 K/uL
        [image002.jpg]
                             [**2161-2-19**]  05:09 AM
                             [**2161-2-19**]  06:50 AM
                             [**2161-2-19**]  12:54 PM
                             [**2161-2-19**]  09:21 PM
                             [**2161-2-20**]  04:26 AM
                             [**2161-2-20**]  07:08 PM
                             [**2161-2-21**]  04:10 AM
                             [**2161-2-21**]  04:18 AM
   WBC
   9.9
   10.3
   20.8
   Hct
   35.5
   35.4
   38.2
   Plt
   197
   227
   281
   Cr
   0.9
   0.7
   0.9
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   25
   24
   28
   Glucose
   108
   106
   108
   114
   Other labs: PT / PTT / INR:12.7/38.8/1.1, CK / CKMB /
   Troponin-T:57/2/<0.01, ALT / AST:105/83, Alk Phos / T Bili:115/0.7,
   Lactic Acid:1.8 mmol/L, Albumin:3.6 g/dL, LDH:420 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.0 mg/dL
   CXR [**2-20**]: bibasilar atelectasis. No new airspace consolidation. No
   evidence of pneumothorax. Lung volumes have shown a mild interval
   increase in size.  ETT 4.4 cm from carina.
   Assessment and Plan
   56 y o man with metastatic rectal cancer, now with GBS, intubated for
   progressive weakness.
   1. Respiratory failure: likely [**2-10**] progressive weakness.  Lung volumes
   improved with positive pressure ventilation.  Now with low-grade temps
   and new leukocytosis.  ? aspiration around time of intubation.  Early
   for true VAP, but ?HAP [**2-10**] aspiration
   - check blood, sputum and urine cultures
   - recheck CXR today
   - low threshold to start HAP abx
   2. GBS: Patient w/ worsened ascending weakness/numbness, LP w/
   albuninocytologic dissociation and EMG confirms GBS.  Intubated
   yesterday.  NIFs attempted today, but too sedated.
   - Last day of IVIG today
   - No plasmapheresis per Neuro for now
   - f/u CSF cytology, CEA, beta 2 microglobulin, LDH, other studies
   - Appreciate Neuro recs, transfer to neuro ICU when bed available
   3. Hyponatremia: urine lytes c/w SIADH, improving with fluid
   restriction
   - continue free water restrict <1.5L
   4. Tachycardia: sinus tach, ECG with STDs, but no clear CP, although
   difficult to assess now.  No known h/o coronary disease.
   - F/up cardiac enzymes
   - continue ASA, d/c BBL
   5. Diarrhea:
   - f/u campylobacter, stool studies
   .
   6. DVT:  Continue Lovenox
   .
   7. Rectal cancer:  with known mets.
   - plan per outpatient team
   ICU Care
   Nutrition: on TFs, monitor residuals
   Replete with Fiber (Full) - [**2161-2-21**] 12:00 AM 40 mL/hour
   Glycemic Control:  ISS
   Lines:
   Indwelling Port (PortaCath) - [**2161-2-18**] 07:04 PM
   20 Gauge - [**2161-2-20**] 10:43 PM
   Prophylaxis:
   DVT: on Tx lovenox
   Stress ulcer: Pantoprazole
   VAP:  peridex
   Communication: with family
   Code status: FULL
   Disposition : ICU ([**Hospital Unit Name 4**] vs. Neuro ICU)
   Total time spent:  35 min CCT

2161-02-22 07:19:00 Physician Resident Progress Note
Chief Complaint: GBS
   24 Hour Events:
   -Neuro recommends keep intubated, still searching for bed in NeuroICU
   -Pt still having pain, morphine increased from 0.5mg IV Q2H PRN to 1mg
   IV Q2H PRN pain
   -Pt with increased sinus tach in AM, difficult to assess if havign CP,
   cardiac enzymes negative x 2, 12 hours apart
   -Pt with low grade temps, leukocytosis, ?aspiration. Blood, urine,
   sputum cx pending, gram stain negative, stool cx negative, C diff
   negative
   -Having some access issues bc has single-lumen port used for propofol
   cannot use same for fluids, may need PICC
   -Pt had low urine output, was given bolus 1L NS x 1
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Sedated, Language barrier
   Allergies:
   Alcohol
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-2-21**] 08:00 PM
   Enoxaparin (Lovenox) - [**2161-2-21**] 08:00 PM
   Morphine Sulfate - [**2161-2-22**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Genitourinary: Foley
   Flowsheet Data as of  [**2161-2-22**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 100 (96 - 128) bpm
   BP: 111/70(78) {101/59(68) - 158/103(111)} mmHg
   RR: 14 (13 - 21) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  3,115 mL
                                                                    455 mL
   PO:
             TF:
                                                                    630 mL
                                                                    264 mL
   IVF:
                                                                  2,365 mL
                                                                    190 mL
   Blood products:
   Total out:
                                                                  3,035 mL
                                                                    595 mL
   Urine:
                                                                  3,035 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     80 mL
                                                                   -140 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP
   Vt (Spontaneous): 478 (478 - 538) mL
   PS : 8 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.36/48/96.[**Numeric Identifier 7**]/27/0
   Ve: 7.2 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: No acute distress
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   227 K/uL
   11.0 g/dL
   120 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.4 mEq/L
   15 mg/dL
   103 mEq/L
   135 mEq/L
   32.2 %
   8.0 K/uL
        [image002.jpg]
                             [**2161-2-19**]  12:54 PM
                             [**2161-2-19**]  09:21 PM
                             [**2161-2-20**]  04:26 AM
                             [**2161-2-20**]  07:08 PM
                             [**2161-2-21**]  04:10 AM
                             [**2161-2-21**]  04:18 AM
                             [**2161-2-21**]  11:37 AM
                             [**2161-2-21**]  12:00 PM
                             [**2161-2-21**]  04:37 PM
                             [**2161-2-22**]  04:04 AM
   WBC
   10.3
   20.8
   8.0
   Hct
   35.4
   38.2
   32.2
   Plt
   227
   281
   227
   Cr
   0.7
   0.9
   0.7
   TropT
   <0.01
   <0.01
   <0.01
   <0.01
   <0.01
   TCO2
   24
   28
   28
   Glucose
   108
   114
   120
   Other labs: CK / CKMB / Troponin-T:45/2/<0.01, Ca++:8.2 mg/dL, Mg++:2.2
   mg/dL, PO4:2.5 mg/dL
   Microbiology: No new culture growth
   FECAL CULTURE-FINAL; NEGATIVE FOR CAMPYLOBACTER, salmonella, shigella
   E.COLI 0157:H7, C Diff
   CSF Cytology:
   Mature lymphocytes and monocytes, negative for malignant cells
   Assessment and Plan
   56 y o man with metastatic rectal cancer, now with GBS, intubated for
   progressive weakness.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   [**2-10**] weakness from GBS. Intubated.
Fever, leukocytosis
   Was concern for aspiration. Improved without any antibiotics. ? related
   to stress vs IVIG.
   -monitor
 [**Last Name (un) 3245**] [**Location (un) **] Syndrome
   Patient w/ worsened ascending weakness/numbness, LP w/
   albuninocytologic dissociation and EMG confirms GBS.
   - finished IVIG yesterday
   - No plasmapheresis per Neuro for now
   - Appreciate Neuro recs, transfer to neuro ICU when bed available
 CHEST PAIN
   non-cardiac, enzymes negative. Could be related to GBS or IVIG.
 Hyponatremia
   Improved. Urine lytes c/w SIADH, improving with fluid restriction
   - continue free water restrict <1.5L
 Tachycardia
   -cont aspirin
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
   on lovenox
 Diarrhea
   Stools negative
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
   - plan per outpatient team
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2161-2-21**] 07:41 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2161-2-18**] 07:04 PM
   20 Gauge - [**2161-2-20**] 10:43 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2161-02-22 07:54:00 Physician Attending Progress Note
Chief Complaint:  resp failure [**2-10**] GBS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Last day (#4) of IVIG yesterday
   Remains intubated, on PS
   Sinus tach, cardiac enzymes resent
 neg
   History obtained from Patient, Family / Friend
   Allergies:
   Alcohol
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-2-21**] 08:00 PM
   Enoxaparin (Lovenox) - [**2161-2-21**] 08:00 PM
   Morphine Sulfate - [**2161-2-22**] 04:00 AM
   Other medications:
   Lovenox
   Chlorhexidine
   Pantoprazole
   Colace
   Senna
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain
   Flowsheet Data as of  [**2161-2-22**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 100 (96 - 128) bpm
   BP: 111/70(78) {101/59(68) - 158/103(111)} mmHg
   RR: 14 (13 - 21) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  3,115 mL
                                                                    502 mL
   PO:
             TF:
                                                                    630 mL
                                                                    294 mL
   IVF:
                                                                  2,365 mL
                                                                    208 mL
   Blood products:
   Total out:
                                                                  3,035 mL
                                                                    595 mL
   Urine:
                                                                  3,035 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     80 mL
                                                                    -93 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 478 (478 - 538) mL
   PS : 8 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.36/48/96.[**Numeric Identifier 7**]/27/0
   Ve: 9.5 L/min
   PaO2 / FiO2: 242
   Physical Examination
   Gen: intubated, sedated, opens eyes to command
   Chest: CTAB
   CV: tachy, regular,  no m/r/g
   Abd: soft, NT/ND + BS
   Extr: warm, no edema
   Neuro: opens eyes to command, no LE reflexes
   Labs / Radiology
   11.0 g/dL
   227 K/uL
   120 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.4 mEq/L
   15 mg/dL
   103 mEq/L
   135 mEq/L
   32.2 %
   8.0 K/uL
        [image002.jpg]
                             [**2161-2-19**]  12:54 PM
                             [**2161-2-19**]  09:21 PM
                             [**2161-2-20**]  04:26 AM
                             [**2161-2-20**]  07:08 PM
                             [**2161-2-21**]  04:10 AM
                             [**2161-2-21**]  04:18 AM
                             [**2161-2-21**]  11:37 AM
                             [**2161-2-21**]  12:00 PM
                             [**2161-2-21**]  04:37 PM
                             [**2161-2-22**]  04:04 AM
   WBC
   10.3
   20.8
   8.0
   Hct
   35.4
   38.2
   32.2
   Plt
   227
   281
   227
   Cr
   0.7
   0.9
   0.7
   TropT
   <0.01
   <0.01
   <0.01
   <0.01
   <0.01
   TCO2
   24
   28
   28
   Glucose
   108
   114
   120
   Other labs: PT / PTT / INR:12.7/38.8/1.1, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:105/83, Alk Phos / T Bili:115/0.7,
   Lactic Acid:1.8 mmol/L, Albumin:3.6 g/dL, LDH:420 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Micro:
   Blood cxs NGTD
   Stool studies: all neg
   Sputum cx: > 25 polys, no bugs on GS, culture pending
   Assessment and Plan
   56 y o man with metastatic rectal cancer, now with GBS, intubated for
   progressive weakness.
   1. Respiratory failure: likely [**2-10**] progressive weakness.  Lung volumes
   improved with positive pressure ventilation.  ? aspiration around time
   of intubation.  Secretions increased yesterday, none today.  CXR
   unchanged, and sputum cx neg to date with no organisms on GS.  WBCs
   down today.
   - f/up final sputum cultures
   - continue PSV
   2. GBS: Patient w/ worsened ascending weakness/numbness, LP w/
   albuninocytologic dissociation and EMG confirms GBS.  Intubated
   yesterday.  Too somnolent for NIFs.  Last day of IVIG yesterday (4 day
   course).
   - No plasmapheresis per Neuro for now
   - f/u CSF cytology, CEA, beta 2 microglobulin, LDH, other studies
   - Appreciate Neuro recs, transfer to neuro ICU when bed available
   3. Hyponatremia: urine lytes c/w SIADH, improved with fluid restriction
   - continue free water restrict <1.5L
   4. Tachycardia: sinus tach, ECG with STDs, but no clear CP, although
   difficult to assess now.  No known h/o coronary disease.  Cardiac
   markers neg.  ?[**2-10**] autonomic instabiliyt [**2-10**] GBS.
   - monitor
   5. Diarrhea: stool studies neg to date
   6. DVT:  Continue Lovenox
   7. Rectal cancer:  with known mets.
   - plan per outpatient Oncology team
   8. Transferring to NeuroICU service
   Remainder of plan per resident note.
   ICU Care
   Nutrition: Replete with Fiber (Full) - [**2161-2-21**] 07:41 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2161-2-18**] 07:04 PM
   20 Gauge - [**2161-2-20**] 10:43 PM
   Prophylaxis:
   DVT:  on Tx lovenox
   Stress ulcer:  PPI
   VAP:  chlorhexidine
   Communication:  with patient and family
   Code status:  full
   Disposition : ICU
   Total time spent: 35 min CCT